US04762840
A stirred solution of 34.9 g of 1-methylcyclohexyl 2-(p-nitrophenyl)-propionate in 250 ml of absolute ethanol was hydrogenated at atmospheric pressure in the presence of 10% palladium on carbon catalyst. After the uptake of hydrogen gas was complete, the catalyst was filtered off through celite and the filtrate was evaporated to dryness. Trituration of the residue with petroleum ether gave 21.02 g (67% yield) of 1-methylcyclohexyl 2-(p-aminophenyl)-propionate as creamy white crystals melting at 85°-87° C.

reactant | 1-methylcyclohexyl 2-(p-nitrophenyl)-propionate | 34.9 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OC1(CCCCC1)C)C | C16H21NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 1-methylcyclohexyl 2-(p-aminophenyl)-propionate | 21.02 g, 67% yield | NC1=CC=C(C=C1)C(C(=O)OC1(CCCCC1)C)C | C16H23NO2
